US07067517B2
Methyl-phenyl-carbamic acid 4-{2-[4-(2-dimethylamino-ethyl)-phenoxy]-ethyl}-phenyl ester
The title compound was prepared as its TFA salt in 92% yield as an oil using methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester and 4-(2-dimethylaminoethyl)-phenol.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester | OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H17NO3
reactant | 4-(2-dimethylaminoethyl)-phenol | CN(CCC1=CC=C(C=C1)O)C | C10H15NO
product | Methyl-phenyl-carbamic acid 4-{2-[4-(2-dimethylamino-ethyl)-phenoxy]-ethyl}-phenyl ester | 92% yield | CN(CCC1=CC=C(OCCC2=CC=C(C=C2)OC(N(C2=CC=CC=C2)C)=O)C=C1)C | C26H30N2O3
